US05403854
Preparation of 3-(Quinolin-3-ylamino)-4-ethoxy-cyclobut-3-ene-1,2-dione
To a solution of 3-aminoquinoline (2.12 g, 14.69 mmol) in ethanol (60 mL) was added 3,4-diethoxy-3-cyclobutene-1,2-dione (2.50 g, 14.69 mmol) and the resulting mixture was heated to reflux for 24 hours. The mixture was cooled, filtered, and the product was washed with diethylether and dried in vacuo to give 3.14 g (80%) of yellow solid which was used without purification: 1H NMR (DMSO-d6) δ11.14 (s, 1H), 8.92 (dd, 1H), 8.20 (dd, 1H), 7.90 (m, 2H), 7.63 (m, 2H).

reactant | 3-aminoquinoline | 14.69 mmol, 2.12 g | NC=1C=NC2=CC=CC=C2C1 | C9H8N2
reactant | 3,4-diethoxy-3-cyclobutene-1,2-dione | 14.69 mmol, 2.50 g | C(C)OC=1C(C(C1OCC)=O)=O | C8H10O4
solvent | ethanol | 60 mL | C(C)O | C2H6O
product | 3-(Quinolin-3-ylamino)-4-ethoxy-cyclobut-3-ene-1,2-dione | 3.14 g, 80% | N1=CC(=CC2=CC=CC=C12)NC=1C(C(C1OCC)=O)=O | C15H12N2O3
